US04838931
11.5 g (0.10 mol) of 2-hydroxymethylpiperidine are dissolved in 100 ml of ether, and 21.8 g (0.10 mol) of 4-chloro-2-fluoro-5-methoxyphenyl isothiocyanate are added dropwise at RT. The mixture is stirred for 2 hours at 30° C., washed with twice 100 ml of water and dried over sodium sulfate, and the solvent is removed. 32.6 g (98% of theory) of 1-[N-(4-chloro-2-fluoro-5-methoxyphenyl)thiocarbamoyl]-2-hydroxymethylpiperidine are obtained in the form of a pale yellow viscous oil.

reactant | 2-hydroxymethylpiperidine | 0.10 mol, 11.5 g | OCC1NCCCC1 | C6H13NO
reactant | 4-chloro-2-fluoro-5-methoxyphenyl isothiocyanate | 0.10 mol, 21.8 g | ClC1=CC(=C(C=C1OC)N=C=S)F | C8H5ClFNOS
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-[N-(4-chloro-2-fluoro-5-methoxyphenyl)thiocarbamoyl]-2-hydroxymethylpiperidine | 32.6 g, 98% | ClC1=CC(=C(C=C1OC)NC(=S)N1C(CCCC1)CO)F | C14H18ClFN2O2S
